US07192948B2
Ethyl 3-(benzoyloxy)-9,9-dimethyl-4,7-dioxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxylate.
Intermediate 29, ethyl 5-(benzoyloxy)-2-(2-(benzyloxycarbonyl)propan-2-yl)-6-oxo-1,6-dihydropyrimidine-4-carboxylate, (479 mg, 1 mmol) was dissolved in methanol and treated with H2 (1 atm) over 10% Pd/C (106 mg) for 1 hour. The reaction mixture was filtered through Celite and the solvent removed in vacuo. The remaining residue was dissolved in 2 mL of CH2Cl2 to which was added iPr2NEt (0.174 mL, 1 mmol) and chloroacetyl chloride (0.080 mL, 1 mmol). The resulting mixture was allowed to stir for 1 hour, then transferred to a seperatory funnel and washed with 1 N HCl. The organic layer was dried (Na2SO4) and the solvent removed to provide a solid. The solid (1 mmol) was dissolved in 4 mL of DMF. To this was added K2CO3 (140 mg, 1 mmol) and the resulting solution heated to 70° C. After stirring for 2 hours the reaction was quenched with 1 N HCl and transferred to a seperatory funnel. The mixture was washed with ethyl acetate which was then dried over Na2SO4. The solvent was removed in vacuo to provide the title compound as an oil.

reactant | ethyl 5-(benzoyloxy)-2-(2-(benzyloxycarbonyl)propan-2-yl)-6-oxo-1,6-dihydropyrimidine-4-carboxylate | 1 mmol, 479 mg | C(C1=CC=CC=C1)(=O)OC1=C(N=C(NC1=O)C(C)(C)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C25H24N2O7
reactant | iPr2NEt | 1 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 1 mmol, 0.080 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | K2CO3 | 1 mmol, 140 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | CO | CH4O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 106 mg | [Pd] | Pd
product | Ethyl 3-(benzoyloxy)-9,9-dimethyl-4,7-dioxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C2N(C1=O)CC(NC2(C)C)=O)C(=O)OCC | C19H19N3O6
